US04262004
A mixture of 5.5 parts of 2,3-dihydro-5-nitroimidazo[2,1-b]benzothiazole and 160 parts of methanol, saturated with ammonia is hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from 1-butanol. The product is filtered off and dried, yielding 3 parts of 2,3-dihydroimidazo[2,1-b]benzothiazol-5-amine; mp. 229.2° C.

reactant | 2,3-dihydro-5-nitroimidazo[2,1-b]benzothiazole | [N+](=O)([O-])C1=CC=CC2=C1N1C(S2)=NCC1 | C9H7N3O2S
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
product | 2,3-dihydroimidazo[2,1-b]benzothiazol-5-amine | N=1CCN2C1SC=1C2=C(C=CC1)N | C9H9N3S
